Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Percocet
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Left heart cath ___

 
History of Present Illness:
Mr. ___ is a ___ man with coronary artery disease s/p CABG
in ___ (LIMA to LAD, SVGs to PLV and PDA), DES to SVG-PLV and
LCx in ___, diabetes, and hypertension who presents after chest
pressure woke him from sleep overnight. The pain was a 
"pressure"
and "ache" rather than a pain, with no radiating symptoms or
associated diaphoresis, nausea, vomiting, or anxiety. This
discomfort kept him up for several hours after which he fell 
back
asleep. When he woke up the ache was much more mild but still
there, so he went to the emergency room.

In the ED, his chest ache resolved with a nitro gtt. He was 
found
to have an NSTEMI with dynamic EKG changes, troponin 0.37 > 1.4
and MB elevation. He got 243mg aspirin (81mg this morning), was
started on a heparin gtt and admitted for a cath. 
 
Past Medical History:
HTN, hypercholesteremia, CAD, s/p PCI (cypher stent x3)
 
Social History:
___
Family History:
father had MI late ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ ___
    Temp: 97.8 (Tm 97.8), BP: 128/72 (128-152/72-79), HR: 58
(58-68), RR: 18, O2 sat: 96%, O2 delivery: Ra  

GENERAL: Lying in bed and appears comfortable, no apparent
distress
NECK: JVP 6cm
CARDIAC: RRR, normal S1/S2, no murmurs
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi, comfortable on room air
ABDOMEN: Soft, nontender, nondistended
EXTREMITEIS: Warm, well perfused, no peripheral edema
SKIN: No significant lesions or rashes

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 1139)
    Temp: 98.2 (Tm 98.5), BP: 132/57 (112-132/53-71), HR: 57
(57-72), RR: 16 (___), O2 sat: 96% (93-97), O2 delivery: Ra,
Wt: 231.92 lb/105.2 kg  

GENERAL: Lying in bed and appears comfortable, no apparent
distress
CARDIAC: RRR, normal S1/S2, no murmurs
LUNGS: Clear to auscultation bilaterally, no wheezes, crackles
ABDOMEN: Soft, nontender, nondistended
EXTREMITEIS: Warm, well perfused, no peripheral edema. Slight
___ wrist hematoma with intact distal perfusion, normal
neurovascular function. 
SKIN: No significant lesions or rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:50AM BLOOD WBC-6.6 RBC-4.39* Hgb-14.9 Hct-43.4 
MCV-99* MCH-33.9* MCHC-34.3 RDW-12.4 RDWSD-45.1 Plt ___
___ 09:50AM BLOOD Plt ___
___ 11:03AM BLOOD ___ PTT-28.6 ___
___ 11:03AM BLOOD D-Dimer-377
___ 09:50AM BLOOD Glucose-129* UreaN-12 Creat-0.8 Na-141 
K-4.8 Cl-101 HCO3-27 AnGap-13
___ 09:50AM BLOOD cTropnT-0.35*
___ 09:50AM BLOOD Calcium-9.4 Phos-2.9 Mg-2.0

PERTINENT LABS
==============
___ 09:50AM BLOOD cTropnT-0.35*
___ 01:54PM BLOOD CK-MB-55* MB Indx-8.4* cTropnT-1.37*
___ 09:24PM BLOOD CK-MB-42* cTropnT-1.56*
___ 07:40AM BLOOD CK-MB-19* cTropnT-0.91*

PERTINENT IMAGING
==================
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left
ventricular wall thickness with a borderline increased/dilated 
cavity. Overall left ventricular systolic
function is normal. However, there is focal hypokinesis of the 
inferoposterobasal segments. Quantitative
biplane left ventricular ejection fraction is 64 %. There is no 
resting left ventricular outflow tract
gradient. Mildly dilated right ventricular cavity with normal 
free wall motion. The aortic sinus is mildly
dilated with mildly dilated ascending aorta. The aortic arch 
diameter is normal. The aortic valve leaflets
(3) are mildly thickened. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The
estimated pulmonary artery systolic pressure is borderline 
elevated. There is no pericardial effusion.

DISCHARGE LABS
===============
___ 06:50AM BLOOD WBC-5.9 RBC-4.06* Hgb-13.8 Hct-40.1 
MCV-99* MCH-34.0* MCHC-34.4 RDW-12.3 RDWSD-45.1 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-118* UreaN-12 Creat-0.7 Na-140 
K-4.6 Cl-103 HCO3-25 AnGap-12
___ 06:50AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.___RIEF HOSPITAL SUMMARY
======================
Mr. ___ is a ___ man with coronary artery disease s/p CABG 
in ___ (LIMA to LAD, SVGs to PLV and PDA), DES to SVG-PLV and 
LCx in ___, diabetes, and hypertension who presents after chest 
pressure woke him from sleep overnight. He was found to have 
NSTEMI with trop elevation to peak 1.56 and dynamic EKG changes. 
Cardiac cath showed three vessel coronary artery disease with 
chronic occlusion LCx prior stents and no clear culprit for 
patient's chest pain. A TTE showed minor hypokinesis but normal 
EF and no significant regurgitation. Patient's medications were 
optimized prior to discharge. 

ACTIVE ISSUES
=============
# NSTEMI
# CORONARY ARTERY DISEASE
Patient has known history of coronary artery disease but no 
episodes of chest pain since his stents in ___. This chest 
discomfort resolved with nitro gtt and he was found to have 
dynamic EKG changes and trop and MB elevation consistent with 
NSTEMI. He was started on nitro gtt and heparin gtt, given 
aspirin, and admitted for cath. Cath on ___ showed three vessel 
coronary artery disease with chronic occlusion LCx prior stents 
and no clear culprit for patient's chest pain. A TTE showed 
minor hypokinesis but normal EF and no significant 
regurgitation. We started Imdur 30mg daily, Plavix, and 
continued his aspirin. 

# HYPERTENSION
Home valsartan was switched to losartan given the recall. 

# HIGH CHOLESTEROL
His home pravastatin 80mg daily was switched to a high-intensity 
statin, atorvastatin 80mg QPM. 

# DIABETES
Home metformin was held and patient was initiated on insulin 
sliding scale while admitted.

TRANSITIONAL ISSUES
====================
[ ] Please refer patient to cardiac rehabilitation program after 
discharge 
[ ] If persistent symptoms he would eventually need 
consideration of complex PCI for CTO of the ___

# CODE STATUS 
Full code confirmed
# CONTACT
___ wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
2. Pravastatin 80 mg PO QPM 
3. Valsartan 80 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every night Disp 
#*30 Tablet Refills:*3 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
4.  Losartan Potassium 12.5 mg PO DAILY 
RX *losartan 25 mg 0.5 (One half) tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
You can take up to 3, five minutes apart.  
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually PRN Disp #*10 
Tablet Refills:*1 
6.  Aspirin 81 mg PO DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
# NSTEMI
# CORONARY ARTERY DSIEASE
# HYPERTENSION
# HIGH CHOLESTEROL
# DIABETES

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___.

You came to the hospital because of chest pain.

WHAT HAPPENED IN THE HOSPITAL?
- You were found to have a heart attack.
- You had a heart catheterization, which showed no culprit 
artery. No interventions were done and the interventional 
cardiologists recommended medical management.
- An ultrasound of your heart showed that your heart is pumping 
normally.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Please take all of your medications as directed.
- It is important for you to follow up with all of your doctors, 
including your cardiologist. 
- Remember to work on your lifestyle changes, such as losing 
weight, eating a well-rounded diet, and walking more. This can 
make a big difference in your longterm cardiac health.

We wish you the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___